US06814960B1
Preparation of 3,5-dihydroxystilbene
For demethylation, a homogeneous mixture of 54.0 g (0.22 mol) of 3,5-dimethoxystilbene and 40.0 g (0.35 mol) of pyridine hydrochloride is heated at about 165° C. for 3 hours. The cooled, oily reaction mass is then introduced into 1.2 liters of 2N hydrochloric acid and the crude product is isolated by extraction with diethyl ether. Recrystallisation from toluene yields 3,5-dlihydroxystilbene in the form of a pale-yellow powder.

reactant | 3,5-dimethoxystilbene | 0.22 mol, 54.0 g | COC=1C=C(C=C(C1)OC)C=CC1=CC=CC=C1 | C16H16O2
reactant | pyridine hydrochloride | 0.35 mol, 40.0 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | 2N, 1.2 liters | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,5-dihydroxystilbene | OC=1C=C(C=C(C1)O)C=CC1=CC=CC=C1 | C14H12O2
